US07094908B2
Methyl 2-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (269 mg, 59%) in the same manner as described in the above example 6 (1) from methyl 3-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.52 g, 1.48 mmol) and pyridinium p-toluenesulfonate (51 mg), and the obtained product was identified with the following NMR data.

reactant | methyl 3-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.48 mmol, 0.52 g | ClC=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C16H16ClNO6
reactant | pyridinium p-toluenesulfonate | 51 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | Methyl 2-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | ClC=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OC)C(C)=O)=O | C14H12ClNO5
